US07572809B2
Similar procedure as described in example 10 was used, starting from cyclohexanol and (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine to give (1-cyclohexyloxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine. LC-MS m/e 323(MH+).

reactant | cyclohexanol | C1(CCCCC1)O | C6H12O
reactant | (1-chloro-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=CC=C12)NC1=NNC(=C1)C | C13H11ClN4
product | (1-cyclohexyloxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | C1(CCCCC1)OC1=NC(=CC2=CC=CC=C12)NC1=NNC(=C1)C | C19H22N4O
